US04940703
(c) 5-Methoxy-1H-indole-3-carbonitrile
5-Methoxy-1H-indole-3-carboxamide (6.1 g) was treated with refluxing POCl3 (65 ml) for ten minutes. Excess POCl3 was removed under high vacuum (0.1 mmHg) and the residue quenched with water/0.88 NH4OH 1:1 (100 ml). The resulting solution was extracted with CHCl3 (4×100 ml), treated with charcoal (10 g), dried (MgSO4), filtered and the solvent removed to afford a brown solid. Recrystallisation from hexane afforded the title compound as pale brown needles (3.3 g), m.p. 147° C.; δH (360 MHz, CDCl3) 3.86 (3H, s, OCH3), 6.90 (1H, dd, J=7.5, 1.0 Hz, H-6), 7.13 (1H, d, J=1.0 Hz, H-4), 7.36 (1H, d, J=7.5 Hz, H-7), 7.67 (1H, s, H-2).

reactant | 5-Methoxy-1H-indole-3-carboxamide | 6.1 g | COC=1C=C2C(=CNC2=CC1)C(=O)N | C10H10N2O2
reactant | POCl3 | 65 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-Methoxy-1H-indole-3-carbonitrile | 3.3 g | COC=1C=C2C(=CNC2=CC1)C#N | C10H8N2O
